US05258513
0.48 g (20 mmoles) of sodium is dissolved in 20 ml of anhydrous ethanol. This solution is added to an ethanol solution containing 2.48 g (10 mmoles) of N-[imino(cyclopropylamino)methyl]-4-morpholinecarboximidamide hydrochloride, and 2.82 g (22 mmoles) of ethyl 1-methylcyclopropane-carboxylate are then also added to the mixture. The mixture is then heated under reflux under nitrogen for 88 hours. It is cooled, the alcohol is evaporated under reduced pressure and the residue is redissolved in 50 ml of water and 200 ml of dichloromethane. The aqueous phase is separated off and the organic phase is washed twice with 50 ml of water and dried over magnesium sulfate. The solvent is evaporated under reduced pressure and the residue is recrystallized from a 1:1 (v/v) mixture of petroleum ether-dichloromethane. 0.49 g of 2-cyclopropylamino-4-(1-methylcyclopropyl)-6-morpholino-1,3,5-triazine is obtained. Yield: 17%. M.P.: 94°-95°% C.

reactant | sodium | 20 mmoles, 0.48 g | [Na] | Na
reactant | N-[imino(cyclopropylamino)methyl]-4-morpholinecarboximidamide hydrochloride | 10 mmoles, 2.48 g | Cl.N=C(NC(=N)N1CCOCC1)NC1CC1
reactant | ethyl 1-methylcyclopropane-carboxylate | 22 mmoles, 2.82 g | CC1(CC1)C(=O)OCC | C7H12O2
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-cyclopropylamino-4-(1-methylcyclopropyl)-6-morpholino-1,3,5-triazine | 0.49 g, Yield: 17% | C1(CC1)NC1=NC(=NC(=N1)C1(CC1)C)N1CCOCC1 | C14H21N5O
